US07625908B2
N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-(2-methoxyethyl)acetamide
The procedure described in Example 5 was repeated using N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-{2-[(2-methoxyethyl)amino]ethoxy}quinazolin-4-amine and acetyl chloride to give the title compound in 30% yield; NMR spectrum (DMSO-d6) 1.99 (s, 3H), 3.24 (s, 3H), 3.46-3.51 (m, 2H), 3.52-3.57 (m, 2H), 3.88-3.98 (m, 2H), 4.37-4.43 (m, 2H), 5.31 (s, 2H), 7.17 (d, 1H), 7.26 (d, 1H), 7.34 (d, 1H), 7.35-7.40 (m, 1H), 7.55-7.63 (m, 2H), 7.71-7.78 (m, 1H), 7.86-7.92 (m, 1H), 7.94 (d, 1H), 8.46 (s, 1H), 8.61 (d, 1H), 9.86 (s, 1H); Mass spectrum MH+ 522.

reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-{2-[(2-methoxyethyl)amino]ethoxy}quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNCCOC | C25H26ClN5O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-(2-methoxyethyl)acetamide | 30% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)CCOC | C27H28ClN5O4
